US05055482
A solution of bromine (2.2 ml) in chloroform (20 ml) was added dropwise to a stirred solution of 2-(2,6-dichloro-4-trifluoromethylphenylazo)-3-oxobutanenitrile (13.0g) in chloroform (20 ml) maintained at 50° C. The solution was then refluxed for 20 minutes, cooled, washed with water (4×50 ml), dried over magnesium sulfate, filtered and evaporated to give 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenylazo)-3-oxobutanenitrile (16.0g) as a brown oil.

reactant | bromine | 2.2 ml | BrBr | Br2
reactant | 2-(2,6-dichloro-4-trifluoromethylphenylazo)-3-oxobutanenitrile | 13.0g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N=NC(C#N)C(C)=O | C11H6Cl2F3N3O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenylazo)-3-oxobutanenitrile | 16.0g | BrCC(C(C#N)N=NC1=C(C=C(C=C1Cl)C(F)(F)F)Cl)=O | C11H5BrCl2F3N3O
